US05130330
(±)-cis-2-[1-Pyrrolidinyl]-N-methylcyclohexylamine
(±)-cis-2-Pyrrolidinyl-N-t-butyloxycarbonyl-N-methylcyclohexylamine (247 gm) was slowly added to 6 M hydrochloric acid at 60° C. with vigorous stirring. The solution was stirred an additional 5 minutes at 60° C. and poured onto ice (200 gm). Excess concentrated aqueous ammonia was added and the mixture was extracted with methylene chloride. The combined extracts were dried (Na2SO4) and the solvent removed on a rotary evaporator. The residue was distilled (78° C. at 0.3 mm Hg) to give the product as a colorless oil.

reactant | (±)-cis-2-Pyrrolidinyl-N-t-butyloxycarbonyl-N-methylcyclohexylamine | 247 gm | N1(CCCC1)[C@@H]1[C@@H](CCCC1)N(C)C(=O)OC(C)(C)C | C16H30N2O2
reactant | hydrochloric acid | 6 M | Cl | ClH
reactant | ammonia | N | H3N
product | (±)-cis-2-[1-Pyrrolidinyl]-N-methylcyclohexylamine | N1(CCCC1)[C@@H]1[C@@H](CCCC1)NC | C11H22N2
